US09284271B2
A solution of iodine (9.86 g; 38.84 mmol) and potassium iodide (6.45 g; 38.84 mmol) in water was added dropwise to a suspension of 3-chloro-4-methylaniline (5.00 g; 35.31 g) in a solution of sodium bicarbonate (4.75 g; 56.50 mmol). The resulting mixture was stirred 72 hours at room temperature filtrated and the solid dissolved in dichloromethane, washed with a saturated solution of sodium thiosulphate, dried over magnesium sulphate and concentrated under reduced pressure. The crude residue was purified by flash chromatography on silica gel (eluent 2 to 20% ethyl acetate in heptane) to yield 2.30 g (24%) of 5-chloro-2-iodo-4-methylaniline as a brown solid.

reactant | iodine | 38.84 mmol, 9.86 g | II | I2
reactant | potassium iodide | 38.84 mmol, 6.45 g | [I-].[K+]
reactant | 3-chloro-4-methylaniline | 5.00 g | ClC=1C=C(N)C=CC1C | C7H8ClN
reactant | sodium bicarbonate | 56.50 mmol, 4.75 g | C([O-])(O)=O.[Na+]
solvent | water | O | H2O
product | 5-chloro-2-iodo-4-methylaniline | 2.30 g, 24% | ClC=1C(=CC(=C(N)C1)I)C | C7H7ClIN
